US04520029
Farnesyl farnesyl carboxylate (Compound V)
A mixture of farnesyl carboxylic acid (5.0 g), farnesol (4.44 g) and triethylamine (4.85 g) was added dropwise at room temperature to a stirred solution of 2-chloro-1-methylpyridinium iodide (5.61 g) in 40 ml of toluene. After complete addition, the reaction mixture was heated on boiled water bath for three hours. After cooling, the mixture was washed with water and dried (Na2SO4). The solvent was removed in vacuo and gave a pale yellow oil. This material was purified by silica gel chromatography by using n-hexane and gave 7.15 g of the titled compound.

reactant | farnesyl carboxylic acid | 5.0 g | C(C=C(C)CCC=C(C)CCC=C(C)C)C(=O)O | C16H26O2
reactant | farnesol | 4.44 g | OCC=C(C)CCC=C(C)CCC=C(C)C | C15H26O
reactant | triethylamine | 4.85 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 5.61 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Farnesyl farnesyl carboxylate | 7.15 g | C(C=C(C)CCC=C(C)CCC=C(C)C)C(=O)OCC=C(C)CCC=C(C)CCC=C(C)C | C31H50O2
